US06384028B1
To a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine (1.23 g) in ethyl acetate (12 ml) was added 4N HCl in ethyl acetate (6.66 ml) at room temperature, and the reaction mixture was stirred for 2 hours. The precipitates were filtered, washed with diethyl ether and purified by preparative HPLC eluting with 0.1% trifluoroacetic acid-CH3CN (9:1), then the fractions containing the object compound were concentrated in vacuo. The residue was resolved in water, neutralized with 1N aq. NaOH, desalted by using the resin of HP-20 eluting with isopropanol-H2O (1:1), freeze-dried to give N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine as a white powder (0.7 g).

reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine | 1.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#C | C24H35N3O6
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 12 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 6.66 ml | C(C)(=O)OCC | C4H8O2
product | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine | 0.7 g | N1CCC(CC1)/C=C/C(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#C | C19H27N3O4
